US04359332
To a solution of decyl N-trifluoroacetyl-N-(dichlorophosphonomethyl)glycinate (6.63 g, 0.015 mole) in 200 ml. of ether was added with good stirring cyclohexylamine (5.95 g, 0.06 mole) in 50 ml. of ether. The reaction was stirred overnight at room temperature, then filtered, and the filtrate concentrated in vacuo. The residue was dissolved in fresh ether, washed with water, dried over MgSO4 and concentrated in vacuo. The residue was eluted through a dry column chromatograph with ethyl acetate to yield decyl N-trifluoroacetyl-N-(bis(cyclohexylamino)phosphonomethyl)glycinate, m.p. 79.5°-82.5° C.

reactant | decyl N-trifluoroacetyl-N-(dichlorophosphonomethyl)glycinate | 0.015 mole, 6.63 g | FC(C(=O)N(CC(=O)OCCCCCCCCCC)CP(=O)(OCl)OCl)(F)F | C15H25Cl2F3NO6P
reactant | cyclohexylamine | 0.06 mole, 5.95 g | C1(CCCCC1)N | C6H13N
solvent | ether | CCOCC | C4H10O
product | decyl N-trifluoroacetyl-N-(bis(cyclohexylamino)phosphonomethyl)glycinate | FC(C(=O)N(CC(=O)OCCCCCCCCCC)CP(=O)(ONC1CCCCC1)ONC1CCCCC1)(F)F | C27H49F3N3O6P
